US05654307
A mixture of 4-chlorothieno[2,3-d]pyrimidine (135 mg, 0.79 mmol) and 3-bromoaniline (95 μL, 0.89 mmol) in 2-methoxyethanol (2 mL) is heated to 79° C. for 30 min with stirring. The resulting solid is filtered and washed with CH2Cl2 to yield 4-(3-bromoanilino)thieno[2,3-d]pyrimidine hydrochloride (197 mg, 73%). 1H NMR (DMSO) δ 9.99 (1H, s), 8.60 (1H, s), 8.23 (1H, s), 7.98 (1H, d, J=6.0 Hz), 7.88 (1H, d, J=8.0 Hz), 7.79 (1H, d, J=6.0 Hz), 7.37 (1H, t, J=8.0 Hz), 7.30 (1H, d, J=8.0 Hz).

reactant | 4-chlorothieno[2,3-d]pyrimidine | 0.79 mmol, 135 mg | ClC=1C2=C(N=CN1)SC=C2 | C6H3ClN2S
reactant | 3-bromoaniline | 0.89 mmol, 95 μL | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | 2-methoxyethanol | 2 mL | COCCO | C3H8O2
product | 4-(3-bromoanilino)thieno[2,3-d]pyrimidine hydrochloride | 197 mg, 73% | Cl.BrC=1C=C(NC=2C3=C(N=CN2)SC=C3)C=CC1 | InChI=1S/C12H8BrN3S.ClH/c13-8-2-1-3-9(6-8)16-11-10-4-5-17-12(10)15-7-14-11;/h1-7H,(H,14,15,16);1H
